2171-11-01 05:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Became hypotensive and bradycardic - initially responsive to fluids,
   and then refractory.
   - Placed on empiric broad spectrum antibiotics and levophed for
   hypotension, cultures are collected, sent, and pnd.
   - Fluids: +4.25L
 ARTERIAL LINE - START [**2171-10-31**] 11:22 PM
 PICC LINE - START [**2171-10-31**] 11:23 PM
 MULTI LUMEN - START [**2171-10-31**] 11:30 PM
 EKG - At [**2171-11-1**] 03:15 AM
 BLOOD CULTURED - At [**2171-11-1**] 04:00 AM
 URINE CULTURE - At [**2171-11-1**] 04:00 AM
   Allergies:
   Univasc (Oral) (Moexipril Hcl)
   Electrolyte abn
   Celexa (Oral) (Citalopram Hydrobromide)
   Lightheadedness
   Heparin Agents
   Unknown; positi
   Last dose of Antibiotics:
   Metronidazole - [**2171-11-1**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2171-11-1**] 05:00 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-11-1**] 05:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 64 (48 - 66) bpm
   BP: 128/45(71) {76/28(43) - 134/52(78)} mmHg
   RR: 17 (14 - 17) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83 kg (admission): 83 kg
    CVP: 10 (6 - 10)mmHg
   Total In:
                                                                  4,805 mL
                                                                  1,395 mL
   PO:
   TF:
   IVF:
                                                                    305 mL
                                                                  1,395 mL
   Blood products:
   Total out:
                                                                    550 mL
                                                                    410 mL
   Urine:
                                                                    150 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,255 mL
                                                                    985 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 559 (559 - 559) mL
   RR (Set): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 18 cmH2O
   Plateau: 15 cmH2O
   SpO2: 95%
   ABG: ////
   Ve: 8.8 L/min
   Physical Examination
   GEN: NAD, interactive, though non-verbal.
   HEENT: AT, scar present over right pariatal area, trancheostomy in
   place with very mild skin breakdown.
   CV:  RRR, nl S1 and S2, no MRG - sounds are distant.
   PULM: Course mechanical BS throughout.  No true rhonchi or crackles.
   ABD: PEG in place and site is c/d/i, NT/ND, obese, with present BS.
   EXT: No pitting edema, pale nail beds, no wounds, no cyanosis.
   NEURO: Moderate left sided hemiparesis (at baseline), non-verbal but
   able to answer with simple questions.
   Labs / Radiology
   56 K/uL
   7.7 g/dL
   23.6 %
   24.6 K/uL
        [image002.jpg]
                             [**2171-11-1**]  04:10 AM
   WBC
   24.6
   Hct
   23.6
   Plt
   56
   Assessment and Plan
   # Hypotension: etiologies may include hypovolemia, pneumothorax while
   vented, infection (sources: lungs, sacral ulcers, C.diff, urine).
   Initially received 5L of resuscitative NS, then placed on pressors and
   broad coverage antibiotics.
   - Weaned off pressors over the AM
   - Trending WBC counts and fever curves (though has not yet been
   febrile).
   - Cont. with one day of empiric antibiotic coverage with vanc, zosyn,
   and Flagyl.  Will readdress after return of culture data.
   - Obtain mixed venous sat.
   - Obtain KUB of abdomen looking for s/s of obstruction.
   # Respiratory Distress / Hypoxia: Patient has no signs of hypoxia or
   distress upon arrival to MICU, but reportedly had an episode of hypoxia
   while off the ventilator.  Possible etiologies include mucus plugging,
   respiratory fatigue or de-recruitment while off vent.
   - Supportive therapy on the ventilator
   - Wean ventilator to pressure support and trach mask as soon as is
   tolerated.
   - Hold IVF and begin to diurese.
   .
   # AMS: Etiologies of temporary AMS include hypoxia, sz activity,
   infection.
   - U/A and culture urine
   - Email Dr. [**Last Name (STitle) 6397**] to notify her of pt's admission and to request
   her evaluation and recommendation for further work up.
   - If symptoms return then consider MRI with history of worsened facial
   droop and EEG.
   .
   # Diarrhea: OSH records positive for Cdiff, but patient negative here x
   3. He was continued on PO Vanco through [**10-20**]
   - Stool cultures and C.diff x 3.
   - IVF
   - Follow up electrolytes
   .
   # Brain tumor (low grade glioma):
   - Cont. Keppra 1000mg [**Hospital1 **] PO
   - Email and notify neuro-oncologist Dr. [**Last Name (STitle) 6397**].
   .
   # MDS/HIT: Pt has h/o thrombocytopenia and anemia. He was found to be
   HIT positive with positive antibodies and serotonin release assay so
   all heparin products should be avoided.
   - Follow blood counts
   - Transfuse for plt count of less than 30, and HCT < 21.
   .
   # Hypercalcemia: Elevated calcium during previous admission; PTH WNL.
   Most likely etiology includes humoral hypercalcemia of malignancy as
   involvement of bone is unlikely. Values are at patient
s baseline
   levels.  Further workup had been deferred to outpatient treatment.
   .
   # h/o CAD s/p CABG; HTN; Dyslipidemia: Patient had echo which showed
   LVEF 60%.
   - r/o mi with serial c.e.
   - Cont. Statin
   - Holding anti-hypertensives.
   .
   # h/o DVT: LENIs on previous admission showed no DVTs in LE BL.
   .
   # AFib:
   - Holding anti-hypertensives due to periods of hypotension.
   .
   # Hyperglycemia: Was on SSI at OSH but does not carry Dx of
   diabetes.
   - Continued SSI.
   .
   # Gout: Stable. Continued Allopurinol
   .
   # GERD:  Was on PPI at home, continued.
   .
   # F: Had required free water flushes.
      E: Repleting lytes prn.
      N: Consult nutrition and consider TFs, QID finger sticks.
   .
   # PPx: pneumoboots, VAP bundle, PPI, bowel regimin
   .
   # Access: Right A-line and R PICC line, the multilumen femoral CVL
   should be discontinued today.
   .
   # Code:  Presumed FULL
   .
   # Comm:  Wife [**Name (NI) 5977**] [**Telephone/Fax (1) 5978**]; [**Telephone/Fax (1) 5979**] (consented for blood
   products over phone)
   ICU Care
   Lines:
   Arterial Line - [**2171-10-31**] 11:22 PM
   PICC Line - [**2171-10-31**] 11:23 PM
   Multi Lumen - [**2171-10-31**] 11:30 PM

2171-11-02 05:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - STOP [**2171-11-1**] 10:10 AM
 SPUTUM CULTURE - At [**2171-11-1**] 12:00 PM
 STOOL CULTURE - At [**2171-11-1**] 03:35 PM
 NASAL SWAB - At [**2171-11-1**] 03:35 PM
   Pt was weaned off pressors by early morning on [**2171-11-1**].  Zosyn stopped
   as pt did not appear to have PNA.  Femoral groin line removed.  Tube
   feeds started.  Pt able to be weaned to trach mask and doing well.
   PT/OT ordered.
   Per family, would like to move pt to another rehab facility.  Spoke
   with case management and screening process started.
   Pt has no complaints this morning.
   Allergies:
   Univasc (Oral) (Moexipril Hcl)
   Electrolyte abn
   Celexa (Oral) (Citalopram Hydrobromide)
   Lightheadedness
   Heparin Agents
   Unknown; positi
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2171-11-1**] 05:00 AM
   Vancomycin - [**2171-11-1**] 08:30 PM
   Metronidazole - [**2171-11-1**] 09:30 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-11-2**] 05:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 81 (58 - 89) bpm
   BP: 121/37(64) {87/33(53) - 154/57(84)} mmHg
   RR: 18 (8 - 22) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 83 kg
   Height: 69 Inch
    CVP: 8 (4 - 9)mmHg
   Total In:
                                                                  3,112 mL
                                                                    528 mL
   PO:
   TF:
                                                                    147 mL
                                                                    178 mL
   IVF:
                                                                  2,670 mL
   Blood products:
   Total out:
                                                                  2,415 mL
                                                                    790 mL
   Urine:
                                                                  2,415 mL
                                                                    790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    697 mL
                                                                   -262 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 19 cmH2O
   Plateau: 8 cmH2O
   Compliance: 183.3 cmH2O/mL
   SpO2: 93%
   ABG: 7.37/33/187/27/-4
   Ve: 8.4 L/min
   PaO2 / FiO2: 374
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Scar on right parietal area.
   Lymphatic: No(t) Cervical adenopathy, No JVD
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , Rhonchorous: mildly, with large upper airway
   component.), Vent sounds predominate.
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing, Extremities are pale
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Decreased on the left - chronic left sided
   moderate hemiparesis
   Labs / Radiology
   60 K/uL
   8.2 g/dL
   107 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.4 mEq/L
   66 mg/dL
   117 mEq/L
   150 mEq/L
   25.0 %
   18.0 K/uL
        [image002.jpg]
                             [**2171-11-1**]  04:10 AM
                             [**2171-11-1**]  11:35 AM
                             [**2171-11-1**]  03:18 PM
                             [**2171-11-2**]  04:27 AM
   WBC
   24.6
   18.0
   Hct
   23.6
   25.0
   Plt
   56
   60
   Cr
   0.9
   0.9
   TropT
   0.05
   0.06
   TCO2
   20
   Glucose
   100
   107
   Other labs: CK / CKMB / Troponin-T:7//0.06, Differential-Neuts:18.0 %,
   Band:5.0 %, Lymph:9.0 %, Mono:59.0 %, Eos:3.0 %, Lactic Acid:0.6
   mmol/L, LDH:119 IU/L, Ca++:11.5 mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   # Respiratory Distress / Hypoxia: Patient has no signs of hypoxia or
   distress upon arrival to MICU and is now weaned to trach mask.
   Possible etiologies of original event include mucus plugging,
   respiratory fatigue or derecruitment while off vent.  Also possibly
   tracheomalacia.  Was hypotensive and concern for sepsis however
   cultures negative and pt was weaned off pressors quickly.  Zosyn
   stopped for little concern for PNA, pt is afebrile and normotensive.
   - Supportive therapies
   - Wean ventilator as tolerated.
   - continue Vancomycin for 48 hours until cultures negative, continue
   Flagyl for C.Diff reported positive at outside hospital.
   - Lasix 10mg IV X 1 for diuresis, will follow PM lytes
   .
   # AMS: Etiologies of temporary AMS include hypoxia, sz activity,
   infection. Pt currently at baseline.  Cultures currently negative.
   - continue to monitor
   .
   # Diarrhea: OSH records positive for Cdiff, but patient negative. Is
   having watery stools c/w c.diff.
   here x 3. He was continued on PO Vanco through [**10-20**].
   - Stool cultures and Cdiff
   - Flagyl 500mg IV q8h
   .
   # Brain tumor:
   - Cont. Keppra 1000mg [**Hospital1 **] PO
   - email and notify neuro-oncologist Dr. [**Last Name (STitle) 6397**].
   .
   # MDS/HIT: Pt has h/o thrombocytopenia and anemia. He was found to be
   HIT positive with positive antibodies and serotonin release assay so
   all heparin products should be avoided.
   - Follow blood counts
   - Transfuse for plt count of less than 30, and HCT < 21.
   .
   # Hypercalcemia: Elevated calcium during previous admission; PTH WNL.
   Most likely etiology includes humoral hypercalcemia of malignancy as
   involvement of bone is unlikely. Further workup had been deferred to
   outpatient treatment.
   .
   # h/o CAD s/p CABG; HTN; Dyslipidemia: Patient had echo which showed
   LVEF 60%.  Ruled out with cardiac enzymes.
   - Cont. Statin
   - Holding anti-hypertensives.
   .
   # h/o DVT: LENIs on previous admission showed no DVTs in LE BL.
   .
   # AFib:
   - Holding anti-hypertensives due to periods of hypotension.
   .
   # Hyperglycemia: Was on SSI at OSH but does not carry Dx of
   diabetes.
   - Continued SSI.
   .
   # Gout: Stable. Continued Allopurinol
   .
   # GERD:  Was on PPI at home, continued.
   .
   # F: Had required free water flushes.
     E: Repleting lytes prn.
     N: Consult nutrition and consider TFs, QID finger sticks.
   .
   # PPx: pneumoboots, VAP bundle, PPI, bowel regimin
   .
   # Access: Right A-line and R PICC line.
   .
   # Code:  Presumed FULL
   .
   # Comm:  Wife [**Name (NI) 5977**] [**Telephone/Fax (1) 5978**]; [**Telephone/Fax (1) 5979**] (consented for blood
   products over phone)
   .
   # Dispo: as pt was off vent for 24 hours, may consider calling out to
   floor.  [**Hospital 2773**] rehab placement.
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2171-11-2**] 03:03 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2171-10-31**] 11:22 PM
   PICC Line - [**2171-10-31**] 11:23 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 80M low grade glioma, recent long MICU stay
   for bx, T+G for respiratory failure. At rehab x2 weeks.  [**10-31**] developed
   hypoxia on TM, placed back on vent but desaturated and was transferred
   for ? new L droop and altered mental status. W/u included Head CT and
   CTA negative, treated with vent support, IVF and antibiotics (vanco/IV
   flagyl for c diff).  Now has weaned to trach collar X > 24 hrs.  MS
   improved. Groin line d/c'd yesterday.  Free water for FWD.  PT and OT
   consults called and rehab screening initiatied.
   Exam notable for Tm 97.6 BP 87-133/54-84  HR 58-89 RR 16 with sat 95%
   on trach mask Fio2 0.5. WD man NAD. CTA B rrr abd Soft, PEG c/d/i.
   Trace edema. Labs notable for WBC 18 (33) K, 5% bands, HCT 25, plt 60
   (stable), na 150, K+ 3.4, Cr 0.9. CXR with volume overload, small lung
   volumes, b/b asd.
   Suspect etiology of presenting hypoxia includes mucus pulg, ? severe
   TBM impacting ventilation, aspiration.  Agree with plan to treat
   aspiration with vanco and zosyn until cx neg X 48 hrs.  Continue
   treating c.diff w/ flagyl.  Leukocytosis now improving--continue to
   trend. Continue TM. Mental status improved and likely near baseline.
   Continue sz prophy.  Initiate gentle diuresis. Will resume TFs and
   continue free water boluses for hypernatremia.  Hypercalcemia is
   chronic, continue to follow. Continue PICC and a-line for now. PPI,
   pneumoboots. HIT positive (no heparin, plt stable). Remainder of plan
   as outlined above. Reassess sodium level and if stable or decreased can
   transition to floor.
   Total time: 35 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 744**] [**Last Name (NamePattern1) 1165**], MD
   on:[**2171-11-2**] 07:51 PM ------

2171-11-03 05:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Received Lasix 10mg IV X 1
   Allergies:
   Univasc (Oral) (Moexipril Hcl)
   Electrolyte abn
   Celexa (Oral) (Citalopram Hydrobromide)
   Lightheadedness
   Heparin Agents
   Unknown; positi
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2171-11-1**] 05:00 AM
   Vancomycin - [**2171-11-2**] 08:00 PM
   Metronidazole - [**2171-11-3**] 04:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2171-11-2**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-11-3**] 05:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.8
C (96.5
   HR: 67 (59 - 94) bpm
   BP: 123/42(65) {94/41(58) - 160/69(102)} mmHg
   RR: 22 (16 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 83.5 kg (admission): 83 kg
   Height: 69 Inch
             Total In:
                                                                  3,023 mL
                                                                    981 mL
   PO:
             TF:
                                                                  1,023 mL
                                                                    327 mL
   IVF:
                                                                    750 mL
                                                                    154 mL
   Blood products:
   Total out:
                                                                  3,650 mL
                                                                    520 mL
   Urine:
                                                                  3,425 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -627 mL
                                                                    461 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Scar on right parietal area.
   Lymphatic: No(t) Cervical adenopathy, No JVD
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   No(t) Crackles : , Rhonchorous: mildly, with large upper airway
   component.), Vent sounds predominate.
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing, Extremities are pale
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Decreased on the left - chronic left sided
   moderate hemiparesis.
   Labs / Radiology
   49 K/uL
   8.4 g/dL
   126 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.7 mEq/L
   51 mg/dL
   115 mEq/L
   147 mEq/L
   25.6 %
   19.6 K/uL
        [image002.jpg]
                             [**2171-11-1**]  04:10 AM
                             [**2171-11-1**]  11:35 AM
                             [**2171-11-1**]  03:18 PM
                             [**2171-11-2**]  04:27 AM
                             [**2171-11-2**]  03:38 PM
                             [**2171-11-3**]  03:08 AM
   WBC
   24.6
   18.0
   19.6
   Hct
   23.6
   25.0
   25.6
   Plt
   56
   60
   49
   Cr
   0.9
   0.9
   0.7
   0.8
   TropT
   0.05
   0.06
   TCO2
   20
   Glucose
   100
   107
   130
   126
   Other labs: CK / CKMB / Troponin-T:7//0.06, Differential-Neuts:14.0 %,
   Band:2.0 %, Lymph:7.0 %, Mono:67.0 %, Eos:5.0 %, Lactic Acid:0.6
   mmol/L, LDH:119 IU/L, Ca++:11.2 mg/dL, Mg++:1.7 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   # Respiratory Distress / Hypoxia: Patient has no signs of hypoxia or
   distress upon arrival to MICU and is now weaned to trach mask.
   Possible etiologies of original event include mucus plugging,
   respiratory fatigue or de-recruitment while off vent.  Also possibly
   tracheomalacia.  Was hypotensive and concern for sepsis however
   cultures negative and pt was weaned off pressors quickly.  Zosyn
   stopped for little concern for PNA, pt is afebrile and normotensive.
   - Supportive therapies w/ frequent suctioning.
   - Administer Mucomyst as a mucolytic.
   - Flagyl for C.Diff reported positive at outside hospital.
   - Discontinued Vancomycin.
   - Lasix for diuresis, will follow PM electrolytes.
   - Rpt CXR.
   .
   # AMS: Etiologies of temporary AMS include hypoxia, sz activity,
   infection. Pt currently at baseline.  Cultures currently negative.
   - continue to monitor
   .
   # Diarrhea: OSH records positive for Cdiff, but patient negative. Is
   having watery stools c/w Cdiff.
   here x 3. He was continued on PO Vanco through [**10-20**].
   - Rpt. stool cultures and Cdiff.
   - Flagyl 500mg IV q8h.
   .
   # Brain tumor:
   - Cont. Keppra 1000mg [**Hospital1 **] PO
   - Emailed and notified neuro-oncologist Dr. [**Last Name (STitle) 6397**].
   .
   # MDS/HIT: Pt has h/o thrombocytopenia and anemia. He was found to be
   HIT positive with positive antibodies and serotonin release assay so
   all heparin products should be avoided.
   - Follow blood counts
   - Transfuse for plt count of less than 30, and HCT < 21.
   .
   # Hypercalcemia: Elevated calcium during previous admission; PTH WNL.
   Most likely etiology includes humoral hypercalcemia of malignancy as
   involvement of bone is unlikely. Preliminary workup is inconclusive,
   and further workup had been deferred to outpatient treatment.
   .
   # h/o CAD s/p CABG; HTN; Dyslipidemia: Patient had echo which showed
   LVEF 60%.  Ruled out with cardiac enzymes.
   - Cont. Statin
   - Still holding anti-hypertensives because of recent history of sputum
   production.
   .
   # H/o DVT: LENIs on previous admission showed no DVTs in LE BL.
   .
   # AFib:
   - Holding anti-hypertensives due to periods of hypotension.
   .
   # Hyperglycemia: Was on SSI at OSH but does not carry Dx of
   diabetes.
   - Continued SSI.
   .
   # Gout: Stable. Continued Allopurinol
   .
   # GERD:  Was on PPI at home, continued.
   .
   # F: Had required free water flushes, Goal gentle diuresis = -500.
      E: Repleting lytes prn.
      N: Consult nutrition and consider TFs, QID finger sticks.
   .
   # PPx: pneumoboots, VAP bundle, PPI, bowel regimen
   .
   # Access: Right A-line will be discontinued and R PICC line: NO HEPARIN
   flushes or impregnated lines.
   .
   # Code:  FULL code.
   .
   # Comm:  Wife [**Name (NI) 5977**] [**Telephone/Fax (1) 5978**]; [**Telephone/Fax (1) 5979**] (consented for blood
   products over phone)
   .
   # Dispo: As pt was off vent for 24 hours, may consider calling out to
   floor if secretions diminish enough to require less frequent
   sunctioning.  If not this evening, will readdress in the AM.  [**Hospital 2773**]
   rehab placement.
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2171-11-3**] 04:25 AM 60 mL/hour
   Lines:
   Arterial Line - [**2171-10-31**] 11:22 PM
   PICC Line - [**2171-10-31**] 11:23 PM

2171-11-04 05:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Consider calling out tomorrow if secretions are less, and floor can
   manage reasonably well.
   - Diuresis goal = 500 - another 20 of lasix administered to encourage
   greater output.
   - To pull A-line this AM
   - Discontinued the vancomycin.
   - Started on a mucolytic (NAC) due to thick, copious sputum
   - Stage 2 ulcer on rear
 STOOL CULTURE - At [**2171-11-3**] 11:57 AM
   c-diff
   Allergies:
   Univasc (Oral) (Moexipril Hcl)
   Electrolyte abn
   Celexa (Oral) (Citalopram Hydrobromide)
   Lightheadedness
   Heparin Agents
   Unknown; positi
   Last dose of Antibiotics:
   Vancomycin - [**2171-11-3**] 08:00 AM
   Metronidazole - [**2171-11-4**] 04:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2171-11-4**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-11-4**] 05:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 84 (67 - 103) bpm
   BP: 92/50(64) {84/42(64) - 155/64(88)} mmHg
   RR: 24 (13 - 27) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.2 kg (admission): 83 kg
   Height: 69 Inch
             Total In:
                                                                  4,013 mL
                                                                    984 mL
   PO:
             TF:
                                                                  1,493 mL
                                                                    329 mL
   IVF:
                                                                    690 mL
                                                                    155 mL
   Blood products:
   Total out:
                                                                  3,390 mL
                                                                  1,340 mL
   Urine:
                                                                  3,040 mL
                                                                  1,340 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                    623 mL
                                                                   -355 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 93%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Scar on right parietal area.
   Lymphatic: No(t) Cervical adenopathy, No JVD
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   No(t) Crackles : , Rhonchorous: mildly, with large upper airway
   component.), Vent sounds predominate.
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing, Extremities are pale
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Decreased on the left - chronic left sided
   moderate hemiparesis.
   Labs / Radiology
   58 K/uL
   8.8 g/dL
   121 mg/dL
   0.8 mg/dL
   26 mEq/L
   4.1 mEq/L
   44 mg/dL
   110 mEq/L
   142 mEq/L
   26.6 %
   22.7 K/uL
        [image002.jpg]
                             [**2171-11-1**]  04:10 AM
                             [**2171-11-1**]  11:35 AM
                             [**2171-11-1**]  03:18 PM
                             [**2171-11-2**]  04:27 AM
                             [**2171-11-2**]  03:38 PM
                             [**2171-11-3**]  03:08 AM
                            [**2171-11-4**]  03:54 AM
   WBC
   24.6
   18.0
   19.6
   22.7
   Hct
   23.6
   25.0
   25.6
   26.6
   Plt
   56
   60
   49
   58
   Cr
   0.9
   0.9
   0.7
   0.8
   TropT
   0.05
   0.06
   TCO2
   20
   Glucose
   100
   107
   130
   126
   Other labs: Ca++:10.9 mg/dL, Mg++:1.8 mg/dL, PO4:2.5 mg/dL; Diff: N22,
   B1, L8, M60, E5 occ ovalocytes & acanthocytes
   Micro: C. diff neg; coag + Staph aureus +, urine neg.
   CXR: bibasilar opacities suspicious for PNA with improvement on the L
   Assessment and Plan
   # Respiratory Distress / Hypoxia: Patient has no signs of hypoxia or
   distress upon arrival to MICU and is now weaned to trach mask.
   Possible etiologies of original event include mucus plugging,
   respiratory fatigue or de-recruitment while off vent.  Also possibly
   tracheomalacia.  Was hypotensive and concern for sepsis however
   cultures negative and pt was weaned off pressors quickly.  Zosyn
   stopped for little concern for PNA, pt is afebrile and normotensive.
   No bronchospasm on mucomyst noted and secretions are thinning
   - Supportive therapies w/ frequent suctioning.
   - Administer Mucomyst as a mucolytic.
   - stop Flagyl as C.Diff negative here
   - Discontinued Vancomycin.
   .
   # AMS: Etiologies of temporary AMS include hypoxia, sz activity,
   infection. Pt currently at baseline.  Cultures currently negative.
   - continue to monitor
   .
   # Diarrhea: OSH records positive for Cdiff, but patient negative here.
   Will stop flagyl.
   .
   # Brain tumor:
   - Cont. Keppra 1000mg [**Hospital1 **] PO
   - Emailed and notified neuro-oncologist Dr. [**Last Name (STitle) 6397**].
   .
   # MDS/HIT: Pt has h/o thrombocytopenia and anemia. He was found to be
   HIT positive with positive antibodies and serotonin release assay so
   all heparin products should be avoided.
   - Follow blood counts
   - Transfuse for plt count of less than 30, and HCT < 21.
   .
   # Hypercalcemia: Elevated calcium during previous admission; PTH WNL.
   Most likely etiology includes humoral hypercalcemia of malignancy as
   involvement of bone is unlikely. Preliminary workup is inconclusive,
   and further workup had been deferred to outpatient treatment.
   .
   # h/o CAD s/p CABG; HTN; Dyslipidemia: Patient had echo which showed
   LVEF 60%.  Ruled out with cardiac enzymes.
   - Cont. Statin
   - Still holding anti-hypertensives because of recent history of sputum
   production.
   .
   # H/o DVT: LENIs on previous admission showed no DVTs in LE BL.
   .
   # AFib: Were holding anti-hypertensives due to periods of hypotension,
   but pt. tachycardic today
   - metoprolol 12.5 mg [**Hospital1 **] for rate control.  Will continue to monitor BP
   .
   # Hyperglycemia: Was on SSI at OSH but does not carry Dx of
   diabetes.
   - Continued SSI.
   .
   # Gout: Stable. Continued Allopurinol
   .
   # GERD:  Was on PPI at home, continued.
   .
   # F: Had required free water flushes, will decrease as Na is now
   normal, Goal gentle diuresis = -500.
      E: Repleting lytes prn.
      N: TFs at goal, QID finger sticks.
   .
   # PPx: pneumoboots, VAP bundle, PPI, bowel regimen
   .
   # Access: Right A-line will be discontinued and R PICC line: NO HEPARIN
   flushes or impregnated lines.
   .
   # Code:  FULL code.
   .
   # Comm:  Wife [**Name (NI) 5977**] [**Telephone/Fax (1) 5978**]; [**Telephone/Fax (1) 5979**] (consented for blood
   products over phone)
   .
   # Dispo: As pt was off vent for 24 hours, may consider calling out to
   floor if secretions diminish enough to require less frequent
   sunctioning.  If not this evening, will readdress in the AM.  [**Hospital 2773**]
   rehab placement.
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2171-11-4**] 01:36 AM 60.[**Telephone/Fax (5) 6442**] mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2171-10-31**] 11:22 PM
   PICC Line - [**2171-10-31**] 11:23 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2171-11-04 09:19:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Mucormyst for secretion clearance
   Decub noted in sacral area
   24 Hour Events:
 STOOL CULTURE - At [**2171-11-3**] 11:57 AM
   c-diff
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Univasc (Oral) (Moexipril Hcl)
   Electrolyte abn
   Celexa (Oral) (Citalopram Hydrobromide)
   Lightheadedness
   Heparin Agents
   Unknown; positi
   Last dose of Antibiotics:
   Vancomycin - [**2171-11-3**] 08:00 AM
   Metronidazole - [**2171-11-4**] 04:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2171-11-4**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Cough
   Flowsheet Data as of  [**2171-11-4**] 09:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.9
   HR: 88 (67 - 103) bpm
   BP: 110/57(77) {84/42(64) - 155/64(218)} mmHg
   RR: 24 (13 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.2 kg (admission): 83 kg
   Height: 69 Inch
             Total In:
                                                                  4,013 mL
                                                                  1,628 mL
   PO:
             TF:
                                                                  1,493 mL
                                                                    547 mL
   IVF:
                                                                    690 mL
                                                                    241 mL
   Blood products:
   Total out:
                                                                  3,390 mL
                                                                  1,820 mL
   Urine:
                                                                  3,040 mL
                                                                  1,620 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                    623 mL
                                                                   -191 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: , Rhonchorous: )
He has [**Initials (NamePattern4) **] [**Last Name (NamePattern4) 2364**] with
   ID=9mm with much of tracheostomy tube exterior.  Patient unable to
   generate cough
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
Patient responds to voice and will follow commands and
   take deep breaths on command
   Labs / Radiology
   8.8 g/dL
   58 K/uL
   121 mg/dL
   0.8 mg/dL
   26 mEq/L
   4.1 mEq/L
   44 mg/dL
   110 mEq/L
   142 mEq/L
   26.6 %
   22.7 K/uL
        [image002.jpg]
                             [**2171-11-1**]  04:10 AM
                             [**2171-11-1**]  11:35 AM
                             [**2171-11-1**]  03:18 PM
                             [**2171-11-2**]  04:27 AM
                             [**2171-11-2**]  03:38 PM
                             [**2171-11-3**]  03:08 AM
                            [**2171-11-4**]  03:54 AM
   WBC
   24.6
   18.0
   19.6
   22.7
   Hct
   23.6
   25.0
   25.6
   26.6
   Plt
   56
   60
   49
   58
   Cr
   0.9
   0.9
   0.7
   0.8
   0.8
   TropT
   0.05
   0.06
   TCO2
   20
   Glucose
   100
   107
   130
   126
   121
   Other labs: CK / CKMB / Troponin-T:7//0.06, Differential-Neuts:22.0 %,
   Band:1.0 %, Lymph:8.0 %, Mono:60.0 %, Eos:5.0 %, Lactic Acid:0.6
   mmol/L, LDH:119 IU/L, Ca++:10.9 mg/dL, Mg++:1.8 mg/dL, PO4:2.5 mg/dL
   Imaging: CXR--from [**2171-11-3**]--improved aeration of left base but with
   persistent [**Hospital1 **]-basilar opacities
   Assessment and Plan
   80 yo male with low grade glioma now re-admitted with respiratory
   failure and with successful trach mask support but requirement for
   frequent suctioning q 2 hours to maintain airway patency.  In this
   setting he has had some persistent capacity to maintain ventilation and
   oxygenation off of ventilatory support but has required close care
   throughout.
   -Respiratory Failure-
   -Continue frequent suctioning
q 2 hours and as needed
   -Atrovent
   -Flagyl to continue
   -Continue with Mucormyst
   -Consider trach change when appropriate as current trach positioning is
   atypical
 HYPERNATREMIA (HIGH SODIUM)
 .H/O ATRIAL FIBRILLATION (AFIB)
 .H/O CVA (STROKE, CEREBRAL INFARCTION), HEMORRHAGIC
   -Patient mental status at baseline
   -PT/OT to work with him
   -Wound care
   -CNS GLIOMA
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2171-11-4**] 05:35 AM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2171-10-31**] 11:22 PM
   PICC Line - [**2171-10-31**] 11:23 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes